US04963566
A solution of 5-methoxy-2-mercaptobenzimidazole(0.9 g), sodium hydride (60% in oil, 0.20 g) and 18-crown-6(i.e. 1,4,7,10,13,16-hexaoxacyclooctadecane) (50 mg) in dimethyl formamide (15 ml) was stirred for 20 minutes at room temperature. To the mixture was added a solution of 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline hydrochloride (1.1 g) in dimethyl formamide (15 ml) and the solution was stirred for 20 hours at room temperature. Dimethyl formamide was distilled off, and chloroform, 30% aqueous solution of sodium hydroxide and water were added to the resulting residue. The mixture was stirred for 2 hours and extracted with chloroform. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The resultant residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate (4:1)] to give 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline (0.80 g).

reactant | 5-methoxy-2-mercaptobenzimidazole | 0.9 g | COC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2OS
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline hydrochloride | 1.1 g | Cl.CN1CCCC2=CC=CC(=C12)CCl
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 0.80 g | COC1=CC2=C(N=C(N2)SCC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3OS
